US04452631
1-(2,6-Dimethoxybenzoyl)-3-(2,6-difluorophenyl)urea
A 60 g. portion of 2,6-difluoroaniline was dissolved in 1500 ml. methylene chloride and cooled to 10° C. Under a nitrogen atmosphere, 90 g. of 2,6-dimethoxybenzoylisocyanate in 200 ml. methylene chloride was added dropwise. The mixture was allowed to stir at 25° C. for three hours. The solid was collected and washed with water. The filtrate was evaporated to dryness, and 150 ml. diethyl ether and 150 ml. ethanol were added. The solid was again collected. Yield 89.0 g. (60%).

reactant | 2,6-difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | 2,6-dimethoxybenzoylisocyanate | COC1=C(C(=O)N=C=O)C(=CC=C1)OC | C10H9NO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2,6-Dimethoxybenzoyl)-3-(2,6-difluorophenyl)urea | COC1=C(C(=O)NC(=O)NC2=C(C=CC=C2F)F)C(=CC=C1)OC | C16H14F2N2O4
